US07271168B2
d) 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid chloride hydrochloride
A solution of 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid (11.4 g) in dichloroethane (115 ml) is treated with thionyl chloride (7.71 g) at room temperature for 5′ and at 60° for 1 hour. About 20 ml volatiles are removed under reduced pressure. 100 ml diethyl ether are added and the mixture kept at 5° over night for crystallization. The crystals are collected by filtration, washed with dichloroethane/diethylether and dried. M.p. 120°-123°.

reactant | 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid | 11.4 g | C1=CC=CC=2C3=CC=CC=C3C(C12)CCN(CCC(=O)O)C | C19H21NO2
reactant | thionyl chloride | 7.71 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloroethane | 115 ml | ClC(C)Cl | C2H4Cl2
product | 3-{[2-(9H-fluoren-9-yl)-ethyl]-methyl-amino}-propionic acid chloride hydrochloride | Cl.C1=CC=CC=2C3=CC=CC=C3C(C12)CCN(CCC(=O)Cl)C | InChI=1S/C19H20ClNO.ClH/c1-21(13-11-19(20)22)12-10-18-16-8-4-2-6-14(16)15-7-3-5-9-17(15)18;/h2-9,18H,10-13H2,1H3;1H
